US07741321B2
To a solution of (3,4-dihydroxy-phenyl)-acetonitrile (0.2 g, 1.3 mmol) in toluene (4 mL) was added 2,2-dimethoxy-propane (0.28 g, 2.6 mmol) and TsOH (0.010 g, 0.065 mmol). The mixture was heated at reflux overnight. The reaction mixture was evaporated to remove the solvent and the residue was dissolved in ethyl acetate. The organic layer was washed with NaHCO3 solution, H2O, brine, and dried over Na2SO4. The solvent was evaporated under reduced pressure to give a residue, which was purified by column chromatography on silica gel (Petroleum Ether/EtOAc 10:1) to give 2-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)acetonitrile (40 mg, 20%). 1H NMR (CDCl3, 400 MHz) δ 6.68-6.71 (m, 3H), 3.64 (s, 2H), 1.67 (s, 6H).

reactant | (3,4-dihydroxy-phenyl)-acetonitrile | 1.3 mmol, 0.2 g | OC=1C=C(C=CC1O)CC#N | C8H7NO2
reactant | 2,2-dimethoxy-propane | 2.6 mmol, 0.28 g | COC(C)(C)OC | C5H12O2
reactant | TsOH | 0.065 mmol, 0.010 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)acetonitrile | 40 mg, 20% | CC1(OC2=C(O1)C=CC(=C2)CC#N)C | C11H11NO2
